US08071584B2
1-(1,1-dimethylethyl) 7-ethyl 5-bromo-3-(8-thiabicyclo[3.2.1]oct-3-yl)-1H-indole-1,7-dicarboxylate
To a solution of ethyl 5-bromo-3-(8-thiabicyclo[3.2.1]oct-3-yl)-1H-indole-7-carboxylate (2.38 g, 6.0 mmol, mixture of isomers) in acetonitrile (30 mL) and tetrahydrofuran (4 mL) was added di-tert-butyl dicarbonate (2.23 g, 10.2 mmol, 1.7 eq) and 4-dimethylaminopyridine (245 mg, 2 mmol, 0.33 eq). The reaction mixture was stirred at 23° C. overnight, after which time a clear yellow solution was obtained. The mixture was filtered through a thin pad of silica gel, eluting with dichloromethane followed by 50% ethyl acetate in hexanes. After removal of the solvent in vacuo, the mixture of isomers of 1-(1,1-dimethylethyl) 7-ethyl 5-bromo-3-(8-thiabicyclo[3.2.1]oct-3-yl)-1H-indole-1,7-dicarboxylate was obtained as a yellow residue (3.06 g, 103%).

reactant | ethyl 5-bromo-3-(8-thiabicyclo[3.2.1]oct-3-yl)-1H-indole-7-carboxylate | 6.0 mmol, 2.38 g | BrC=1C=C2C(=CNC2=C(C1)C(=O)OCC)C1CC2CCC(C1)S2 | C18H20BrNO2S
reactant | di-tert-butyl dicarbonate | 10.2 mmol, 2.23 g, 1.7 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 2 mmol, 245 mg, 0.33 eq | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-(1,1-dimethylethyl) 7-ethyl 5-bromo-3-(8-thiabicyclo[3.2.1]oct-3-yl)-1H-indole-1,7-dicarboxylate | 3.06 g, 103% | BrC=1C=C2C(=CN(C2=C(C1)C(=O)OCC)C(=O)OC(C)(C)C)C1CC2CCC(C1)S2 | C23H28BrNO4S
